US07514419B2
Compound 66: 4,6-Dimethyl-4-(4′-hydroxy-3′-iso-propylphenoxy)-indolephosphonic acid
A solution of boron tribromide (1 M in dichloromethane, 1.3 mL, 1.3 mmol) was added to a solution of 5,6-dimethyl-4-(4′-methoxy-3′-iso-propylphenoxy)indolephosphonic acid (100 mg, 0.26 mmol) in dichloromethane (10 mL) at −78° C. The ice bath was removed and the reaction mixture was warmed to rt. After stirring at rt overnight, the reaction mixture was quenched with ice, diluted with ethyl acetate and washed with water then brine, dried over sodium sulfate and concentrated under reduced pressure to give the title compound (86.3 mg, 80%): 1H NMR (300 MHz, CD3OD) δ 7.18 (s, 1H), 6.97 (d, J=3.0 Hz, 1H), 6.60 (s, 1H), 6.57 (d, J=9.0 Hz, 1H), 6.26 (dd, J=9.0, 3.0 Hz, 1H), 3.22 (heptuplet, J=6.9 Hz, 1H), 2.28 (s, 3H), 2.18 (s, 3H), 1.12 (d, J=6.9 Hz, 6H); Anal. Calcd for (C19H22NO5P+1.5H2O+0.1 C3H6O): C, 56.79; H, 6.32; N, 3.43. Found: C, 56.61; H, 5.92; N, 3.22.

reactant | boron tribromide | 1.3 mmol, 1 M, 1.3 mL | B(Br)(Br)Br | BBr3
reactant | 5,6-dimethyl-4-(4′-methoxy-3′-iso-propylphenoxy)indolephosphonic acid | 0.26 mmol, 100 mg | CC=1C(=C2C=C(NC2=CC1C)P(O)(=O)O)OC1=CC(=C(C=C1)OC)C(C)C | C20H24NO5P
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4,6-Dimethyl-4-(4′-hydroxy-3′-iso-propylphenoxy)-indolephosphonic acid | 86.3 mg, 80% | CC1(C2=CC(=NC2=CC(=C1)C)P(O)(=O)O)OC1=CC(=C(C=C1)O)C(C)C | C19H22NO5P
